US07662771B2
Add 2-iodopropane (63.3 mL, 633 mmol) dropwise to a suspension of 1-(5-chloro-2-hydroxyphenyl)ethanone (90.0 g, 528 mmol) and potassium carbonate (109.46 g, 792 mmol) in DMF (1000 mL) at room temperature under nitrogen and heat the mixture at 80° C. for 22 hours. Cool and filter the mixture and remove the solvent reduced pressure. Dilute the residue with ethyl acetate (1 L), wash with water (300 mL) and brine (200 mL), dry over sodium sulfate, and remove the solvent under reduced pressure to afford 1-(5-chloro-2-isopropoxyphenyl)ethanone (104.78 g, 93%).

reactant | 2-iodopropane | 633 mmol, 63.3 mL | IC(C)C | C3H7I
reactant | 1-(5-chloro-2-hydroxyphenyl)ethanone | 528 mmol, 90.0 g | ClC=1C=CC(=C(C1)C(C)=O)O | C8H7ClO2
reactant | potassium carbonate | 792 mmol, 109.46 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1000 mL | CN(C)C=O | C3H7NO
product | 1-(5-chloro-2-isopropoxyphenyl)ethanone | 104.78 g, 93% | ClC=1C=CC(=C(C1)C(C)=O)OC(C)C | C11H13ClO2
